US04565425
A solution of 1.6 g of 4-(trans-1-pentenyl)cyclohexanecarboxaldehyde in 120 ml of acetone was cooled to -10° C., treated dropwise with 8N chromic acid (about 10 ml) until the colour of the mixture remained brown-orange and stirred for 1 hour. Excess chromic acid was reduced by the addition of isopropanol. The green solution was subsequently partitioned three times in water/methylene chloride. The organic extracts were washed twice with water and the wash-water was back-extracted with methylene chloride. The organic phases were dried over magnesium sulphate and evaporated. The pale brown crystalline residue (2.01 g) was dissolved partially in 20 ml of petroleum ether. Undissolved residue was filtered off and the filtrate was evaporated. Recrystallization of the resulting residue from 60 ml of petroleum ether at -78° C. gave 866 mg (49.5%) of 4-(trans-1-pentenyl)cyclohexanecarboxylic acid as white crystals.

reactant | 4-(trans-1-pentenyl)cyclohexanecarboxaldehyde | 1.6 g | C(=C\CCC)/C1CCC(CC1)C=O | C12H20O
reactant | chromic acid | 8N, about 10 ml | [Cr](=O)(=O)(O)O
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 4-(trans-1-pentenyl)cyclohexanecarboxylic acid | 866 mg, 49.5% | C(=C\CCC)/C1CCC(CC1)C(=O)O | C12H20O2
